* 
* This unencrypted file has been supplied by
* Toshiba Electronic Devices & Storage Corporation
* that does not wish to publicize the technology
* used to implement this library.
* 
* Permission is granted to use this file for
* simulations but not to reverse engineer its
* contents.
* When using Simulation Model, please be sure to
* visit "Simulation" page and re-confirm
* Restrictions on Usage, Limitations and others in
* "Cautions on Simulation Model" on Toshiba Electronic
* Devices & Storage Corporation website.
*
*********************************************************************************
* (C) Copyright 2025 Toshiba Electronic Devices & Storage Corporation
* Date            : 10/1/2025
* File Name       : 1SS370_PSpice_rev1.lib
* Part Number     : 1SS370
* Parameter Rev.  : 
* Simulator       : PSpice
* Model Call Name : 1SS370
* TNOM            : 25 degree
* Pin Assign      : 1=Anode 2=Cathode
*
* Operation of this model has been verified only on the PSpice
*********************************************************************************
.SUBCKT 1SS370 1 2
D1 1 2 diode
C0 1 2 5.95e-13
.MODEL diode D
+ IS=1.5e-09
+ N=1.7282
+ ISR=1.84e-09
+ NR=2.32
+ BV=200
+ IBV=1e-06
+ RS=1.1062
+ CJO=8.1e-13
+ VJ=1.2
+ M=0.42
+ FC=0.5
+ TT=1.05e-07
+ EG=1.11
+ XTI=4.962
+ AF=1
+ KF=0
+ NBV=1
+ IBVL=0
+ NBVL=1
+ TNOM=25
.ends



